Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
alcohol withdrawal
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMHx of EtOH abuse who 
presents to the ___ ED for EtOH withdrawal. He reports his 
last drink was the night prior to admission at 10pm. Prior to 
that he had been drinking at least 1 pint of vodka per day for 2 
weeks. The morning of admission, he woke around ___ am with the 
shakes and had vomiting. These symptoms persisted until noon and 
he was unable to get to the store for more alcohol, so he called 
EMS. Denies any seizure activity or loss of consciousness. 
Denies hallucinations.

In the ED, initial vitals: 97.1 ___ 20 99% RA.

His labs were significant for 
WBC 11.8 (normal diff), H/H 14.4/44.6, Plt 331
AST 94, ALT 61, AP 80, Tb 0.7, Alb 5
Ca ___
Cr 1.1, Bicarb 10, AG 44

A CXR was unremarkable.

He was given IVF, thiamine, diazepam, and phenobarbital.

On arrival to the MICU, he was comfortable appearing but 
tremulous.

Review of systems: Per HPI.
 
Past Medical History:
EtOH Abuse with withdrawal seizures (last 1 month ago when 
hospitalized at ___ and DTs
HTN
Anxiety
Depression
h/o PE's - one several years ago where he was reportedly 
anticoagulated, one in ___ in the setting of pneumosepsis
 
Social History:
___
Family History:
Mother died from esophageal cancer. No other known family 
history.
 
Physical Exam:
===============
ADMISSION EXAM:
===============

Vitals: T: 98.8, BP: 115/117, P: 118, R: 15, O2: 96% on RA  
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachycardic, regular rhythm, normal S1 S2, no murmurs, rubs, 
gallops
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: Bilateral hand tremor, ___ strength throughout

===============
DISCHARGE EXAM:
================
Vitals: 98.3, 113/92, 103, 18, 98%RA
GEN: NAD, comfortable appearing, pleasant  
HEENT: sclera anicteric, MMM, poor dentition, EOMI  
NECK: supple
CV: RRR, no murmur   
RESP: CTAB, good aeration. 
ABD: +BS, soft, NT, ND, no r/g  
GU: No foley
EXTR: No ___ pitting edema   
Skin: Warm and slightly damp 
NEURO: Speech fluent 
PSYCH: calm, cooperative  
 
Pertinent Results:
ADMISSION LABS:

___ 01:30PM BLOOD WBC-11.8*# RBC-4.72# Hgb-14.4# Hct-44.6# 
MCV-95 MCH-30.5 MCHC-32.3 RDW-17.8* RDWSD-62.4* Plt ___
___ 01:30PM BLOOD Neuts-69.8 ___ Monos-6.4 Eos-0.2* 
Baso-1.9* Im ___ AbsNeut-8.20*# AbsLymp-2.52 AbsMono-0.75 
AbsEos-0.02* AbsBaso-0.22*
___ 01:30PM BLOOD ___ PTT-27.1 ___
___ 01:30PM BLOOD Glucose-106* UreaN-16 Creat-1.1 Na-141 
K-4.3 Cl-91* HCO3-10* AnGap-44*
___ 01:30PM BLOOD ALT-61* AST-94* AlkPhos-80 TotBili-0.7
___ 01:30PM BLOOD Albumin-5.0 Calcium-10.5* Phos-4.1 Mg-1.7
___ 08:08PM BLOOD Osmolal-283
___ 01:30PM BLOOD ASA-NEG Ethanol-76* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:01PM BLOOD Type-ART pO2-93 pCO2-23* pH-7.39 
calTCO2-14* Base XS--8
___ 03:01PM BLOOD O2 Sat-96

CXR ___:
Lung volumes are slightly low.  No focal consolidation, edema, 
effusion, or pneumothorax.  The heart is normal in size.  The 
hila are unremarkable.  No acute osseous abnormality.  Slight 
irregularity along the lateral aspects of the left seventh and 
eighth ribs reflect healed rib fractures. 
  
IMPRESSION:  
  
No pneumonia. 

DISCHARGE LABS:
___ 03:29AM BLOOD WBC-5.9 RBC-3.81* Hgb-11.5* Hct-35.5* 
MCV-93 MCH-30.2 MCHC-32.4 RDW-17.6* RDWSD-60.5* Plt ___
___ 03:29AM BLOOD ___ PTT-24.6* ___
___ 03:29AM BLOOD Glucose-86 UreaN-10 Creat-0.7 Na-137 
K-3.9 Cl-98 HCO3-25 AnGap-18
___ 03:29AM BLOOD Calcium-8.9 Phos-2.6* Mg-2.4
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with history of 
depression, anxiety, alcohol abuse complicated by alcohol 
withdrawal, seizures, delirium tremens who presents from home 
with alcohol withdrawal. Patient was started on phenobarbital 
for alcohol withdrawal with improvement in symptoms.  

#EtOH Withdrawal: 
Patient drinks 1 pint vodka daily for past 2 weeks, last drink 
at 10PM prior to day of admission. Patient complained of 
tremulousness and emesis. He was found to be tachycardic and 
hypertensive, tremulous consistent with acute alcohol 
withdrawal. He was loaded with phenobarbital and transitioned to 
oral phenobarbital taper. He received IV thiamine and D51/2 
normal saline for volume repletion. He was found to have an 
anion gap acidosis with normal lactate, most likely secondary to 
ethanol and starvation ketosis. Anion gap resolved with IV 
fluids. Patient was continued on multivitamin and folate, Zofran 
for nausea, acetaminophen for pain. Social work was consulted to 
discuss patient's alcohol abuse further. He will go to a 
outpatient program for EtOH cessation. He was feeling well on 
the day of discharge and requested discharge. His phenobarbital 
was discontinued and he was discharged. he was counseled on the 
risk of drinking while the phenobarbital was in his system. 

#Hypertension:
Patient with baseline hypertension exacerbated in setting of 
acute alcohol withdrawal. No signs of hypertensive urgency or 
emergency. Patient was continued on home hydrochlorothiazide and 
lisinopril with stable blood pressures. His BPs improved by the 
time of discharge. 

CHRONIC MEDICAL ISSUES:

#Depression/Anxiety:
Continued home mirtazapine, duloxetine.

#Neuropathy:
Chronic issue, unclear etiology possibly secondary to chronic 
alcohol abuse. Continued home amitriptyline. 

TRANSITIONAL ISSUES:
# Communication: HCP: Patient requested that his PCP or 
psychiatrist be called if anything should happen to him
# Code: Full, confirmed with patient, who would not want a 
prolonged resuscitation

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 25 mg PO QAM 
2. Duloxetine 20 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Mirtazapine 15 mg PO QHS 
6. Thiamine 100 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 

 
Discharge Medications:
1. Amitriptyline 25 mg PO QAM 
2. Duloxetine 20 mg PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Lisinopril 20 mg PO DAILY 
6. Mirtazapine 15 mg PO QHS 
7. Multivitamins 1 TAB PO DAILY 
8. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
9. Thiamine 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol Withdrawal
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr ___,

It was a pleasure taking care of you while you were in the 
hospital. You were admitted for alcohol withdrawal. You were 
given a medication called phenobarbital to help with the 
withdrawal. You still have this medication in your body. It will 
slowly taper off this medication on its own. If is important to 
not drink while this medication is in your system as alcohol 
will affect you more and put you at high risk for bad outcomes 
if you drink any more alcohol. 

Please follow up as directed. Please take your medications as 
directed. 
 
Followup Instructions:
___